US05045552
2-[4-(4-Methoxybutoxy)pyridine-2-yl]methylthio-1H-benzimidazole
A mixture comprising 2.55 g (0.017 mol) of 2-mercaptobenzimidazole, 5.09 g (0.022 mol) of 2-chloromethyl-4-(4-methoxybutoxy)pyridine, 0.84 g (0.020 mol) of 95% sodium hydroxide and 60 ml of ethanol was stirred at 40° C. for 1.5 hours. After the completion of the reaction, the reaction mixture was distilled to remove the solvent. The obtained residue was purified by silica gel column chromatography (ethyl acetate/n-hexane) to obtain 4.13 g of the title compound.

reactant | 2-mercaptobenzimidazole | 0.017 mol, 2.55 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2-chloromethyl-4-(4-methoxybutoxy)pyridine | 0.022 mol, 5.09 g | ClCC1=NC=CC(=C1)OCCCCOC | C11H16ClNO2
reactant | sodium hydroxide | 0.020 mol, 0.84 g | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-[4-(4-Methoxybutoxy)pyridine-2-yl]methylthio-1H-benzimidazole | 4.13 g | COCCCCOC1=CC(=NC=C1)CSC1=NC2=C(N1)C=CC=C2 | C18H21N3O2S
